US08133886B2
Step 3.3: 6-Carboxymethyl-naphthalene-1-carboxylic acid methyl ester
21 ml (0.22 Mol) borane dimethylsulfide complex are added dropwise during 15 min to an ice-cooled solution of 50.2 ml (495 mMol) cyclohexene in 400 ml of THF. The mixture is stirred for 2.5 h at rt and again cooled in an ice-bath. Then a solution of 23.29 g (82.5 mMol) trimethylsilanylethynyl-naphthalene-1-carboxylic acid methyl ester in 400 ml of THF is added dropwise. The mixture is warmed up to rt and stirred for 1 h. Then 585 ml sat. NaHCO3 solution and 138 ml H2O2 (30% in H2O) are added slowly (cool to keep temperature below 60° C.). The suspension is stirred for 16 h and then concentrated in vacuo. The residue is diluted with 1 l sat. NaHCO3 solution, 375 ml water and EtOAc, the organic layer is separated off and washed with 0.5 l sat. NaHCO3 solution and 250 ml water and discarded. The aq. phases are acidified by addition of 4 N HCl (pH=2) and extracted with 3 portions of EtOAc. The organic layers are dried (MgSO4) and concentrated. Trituration from hexane affords the title compound: MS: [M+1]+=245; HPLC: tRet=12.3.

reactant | cyclohexene | 495 mMol, 50.2 ml | C1=CCCCC1 | C6H10
reactant | trimethylsilanylethynyl-naphthalene-1-carboxylic acid methyl ester | 82.5 mMol, 23.29 g | COC(=O)C1=C(C=CC2=CC=CC=C12)C#C[Si](C)(C)C | C17H18O2Si
reactant | NaHCO3 | 585 ml | C(=O)(O)[O-].[Na+]
reactant | H2O2 | 138 ml | OO | H2O2
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 6-Carboxymethyl-naphthalene-1-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=CC(=CC=C12)CC(=O)O | C14H12O4
